data/oMe_Silver.jsonl
{"reaction_id": "NR-131_1-C(=O)OCC_2-CC_3-CCC_4-Br","level": "medium","name": "Lemieux-Johnson Oxidation","reactants_smiles": ["C(C(=O)OCC)(CC)=C(CCC)(Br)"],"products_smiles": ["C(C(=O)OCC)(CC)=O","C(CCC)(Br)=O"],"conditions": "O=[Os](=O)(=O)=O, [Na+].[O-][I+3](=O)=O","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C(=O)OCC)(CC)O[Os](=O)(=O)OC1(CCC)Br","step_weight": 0,"rationale": "The electron-rich alkene π-bond reacts with electrophilic OsO4 in a concerted [3+2] cycloaddition, favored by strong osmium–oxygen electrophilicity and minimal steric hindrance, forming a stable cyclic osmate ester."},{"step": 2,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(O)(C(=O)OCC)(CC)C(O)(CCC)Br","step_weight": 0,"rationale": "Hydrolysis of the osmate ester occurs because osmium–oxygen bonds are labile in aqueous conditions, producing a vicinal diol stabilized by hydrogen bonding and relief of ring strain."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C1(C(=O)OCC)(CC)O[I](=O)(=O)(O)OC1(CCC)Br","step_weight": 0,"rationale": "Periodate acts as an electrophile toward the diol, forming a cyclic periodate ester driven by favorable overlap of oxygen lone pairs with iodine’s empty orbitals and the release of water."},{"step": 4,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(C(=O)OCC)(CC)=O.C(CCC)(Br)=O","step_weight": 0,"rationale": "The cyclic periodate ester undergoes C–C bond cleavage via cycloreversion, favored by the formation of two stable carbonyl groups and relief of ring strain in the intermediate."}],"description": "The alkene undergoes osmium tetroxide-mediated syn-dihydroxylation via a [3+2] cycloaddition, followed by oxidative cleavage with periodate. The cyclic osmate ester and periodate ester intermediates facilitate C–C bond cleavage, yielding two carbonyl compounds under mild oxidative conditions."}
